US08835472B2
N-(1-(4-((4-hydroxyphenyl)ethynyl)phenyl)propan-2-yl)acetamide
4.00 g (19.9 mmol) of N-(1-(4-ethynylphenyl)propan-2-yl)acetamide (I58.3) and 5.25 g (23.9 mmol) 4-iodophenol are added to 125 ml of a 1:1 mixture of DMF and TEA. After cooling down to 0° C. 189 mg (0.99 mmol) CuI and 976 mg (1.39 mmol) Pd(PPh3)4 are added. After stirring over night at r.t. the mixture is treated with EtOAc and sat. NH4Cl solution. The organic layer is washed with brine, dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, EtOAc).

reactant | N-(1-(4-ethynylphenyl)propan-2-yl)acetamide | 19.9 mmol, 4.00 g | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 4-iodophenol | 23.9 mmol, 5.25 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | DMF | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | CuI | 0.99 mmol, 189 mg | [Cu]I
catalyst | Pd(PPh3)4 | 1.39 mmol, 976 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(1-(4-((4-hydroxyphenyl)ethynyl)phenyl)propan-2-yl)acetamide | OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C19H19NO2
